US06759429B2
Under nitrogen atmosphere, a solution of 2,2,6,6-tetramethyl-piperidine (5.00 mL) in THF (120 mL) was cooled to −78° C., and thereto was added dropwise a 1.6N solution of BuLi in hexane (18.5 mL), and the mixture was stirred at room temperature for 30 minutes. The mixture was cooled again to −78° C., and thereto was added a solution of N-benzenesulfonylpyrrole (5.58 g) in THF (25 mL). The mixture was stirred for 30 minutes, and thereto was added a solution of 6-methyl-pyridine-2-aldehyde (3.94 g) in THF (20 mL), and the mixture was stirred at −78° C. for 2 hours. Water was added to the mixture, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with a saturated brine and dried over MgSO4. The solvent was evaporated under reduced pressure, and the precipitated solid was suspended in a mixed solvent of hexane/ethyl acetate=5/1, and collected by filtration to give [1-(phenylsulfonyl)-1H-pyrrol-2-yl](6-methylpyridin-2-yl)methanol (6.78 g, 77%).

reactant | 2,2,6,6-tetramethyl-piperidine | 5.00 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | BuLi | [Li]CCCC
reactant | N-benzenesulfonylpyrrole | 5.58 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=C1 | C10H9NO2S
reactant | 6-methyl-pyridine-2-aldehyde | 3.94 g | CC1=CC=CC(=N1)C=O | C7H7NO
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | hexane | 18.5 mL | CCCCCC | C6H14
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | [1-(phenylsulfonyl)-1H-pyrrol-2-yl](6-methylpyridin-2-yl)methanol | 6.78 g, 77% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=C1)C(O)C1=NC(=CC=C1)C | C17H16N2O3S
